US06861425B2
2-Chloro-1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazole
A mixture of 4-(2-keto-1-benzimidazolinyl)piperidine (5.10 g, 23.5 mmol) and 10% HCl solution in MeOH (20 ml) was stirred at room temperature for 10 minutes. After evaporation of the solvent, the residue was triturated in Et2O to give HCl salt of 4-(2-keto-1-benzimidazolinyl)piperidine as off-white powder. To this HCl salt of 4-(2-keto-1-benzimidazolinyl)piperidine was added cycloheptanone (3.33 ml, 28.2 mmol) followed by addition of aqueous solution of KCN (1.92 g, 29.5 mmol) in water (7 ml) at room temperature. After 18 hours stirring, the resulting solid was collected by filtration, washed with water, and dried in vacuo to give 6.81 g (85.7%) of the nitrile derivative thus obtained as white powder. To a solution of this nitrile derivative (5.12 g, 15.1 mmol) in THF (40 ml) was added a solution of phenylmagnesium bromide in Et2O (3.0 M solution, 25 ml) at 0° C. Then the reaction mixture was stirred at room temperature for 18 hours. Aqueous NH4Cl solution was added to the reaction mixture and the resulting solid appeared was collected by filtration, washed with water and Et2O, and dried in vacuo at 70° C. to give 4.88 g (82.8%) of 1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one as white powder. A mixture of 1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one (2.316 g, 5.95 mmol) and phosphoryl chloride (15 ml, 165.5 mmol) was heated to reflux for 1.5 hours. After cooling down to room temperature, the reaction mixture was poured into ice cooled 25% ammonia solution and extracted with CH2Cl2. The extracts combined were washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography (silica gel: 200 g, hexane/ethyl acetate: 4/1) to give 1.42 g(58.7%) of a colorless amorphous solid.

reactant | 1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | 5.95 mmol, 2.316 g | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C25H31N3O
reactant | phosphoryl chloride | 165.5 mmol, 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
product | 2-Chloro-1-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1H-benzimidazole | 1.42 g, 58.7% | ClC1=NC2=C(N1C1CCN(CC1)C1(CCCCCC1)C1=CC=CC=C1)C=CC=C2 | C25H30ClN3
